US09034866B2
To a solution of 4-Azido-9-bromo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (280 mg, 0.735 mmol) in THF/water (15 mL/3 mL) was added PPh3 (192.5 mg, 0.735 mmol). The reaction mixture was heated to 65° C. overnight. The mixture was cooled to −5° C., and TEA (222 mg, 2.200 mmol) was added followed by acetyl chloride (86.5 mg, 1.101 mmol). Then the mixture was stirred at room temperature for 1 h. The mixture was partitioned between EtOAc and H2O, and the aqueous layer was extracted with EtOAc (2×20 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated to afford crude product which was triturated with EtOAc and hexane (1:1) and then filtered to afford 4-Acetylamino-9-bromo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (160 mg, 51%). 1H NMR (400 MHz, DMSO-d6): δ 8.80 (d, J=2.5 Hz, 1H), 8.48 (s, 1H), 7.53 (dd, J1=8.7 Hz, J2=2.6 MHz, 1H), 7.13 (d, J=8.6 Hz, 2H), 5.51 (m, 1H), 4.41 (m, 1H), 4.23 (m, 1H), 3.96 (s, 3H), 1.90 (s, 3H); LC-MS (ESI & APCI): 399.1 (M+2).

reactant | 4-Azido-9-bromo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.735 mmol, 280 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)N=[N+]=[N-] | C13H9BrN4O3S
reactant | PPh3 | 0.735 mmol, 192.5 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | acetyl chloride | 1.101 mmol, 86.5 mg | C(C)(=O)Cl | C2H3ClO
solvent | THF water | 15 mL | C1CCOC1.O
product | 4-Acetylamino-9-bromo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 160 mg, 51% | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)NC(C)=O | C15H13BrN2O4S
